US07750167B2
C: trans-N-methyl-2-(2-bromophenyl)-3-(2-hydroxy-5-chlorophenyl)-pyrrolidine
trans-2-Bromo-2′-acetoxy-5′-chlorostilbene (26 g, 73 mmol) was slurried in toluene (91 ml) at 33° C. Trifluoroacetic acid (200 microliters) was added. The N-methoxymethyl-N-trimethylsilyl-N-methylamine (14.5 g; 89.7 mmol) was added to the reaction mixture over 90 minutes. After addition, the reaction was washed with water (25 ml). The toluene was removed by vacuum distillation. Ethanol (30 ml) was added and removed under reduced pressure. The oil was dissolved in methanol (90 ml). Potassium hydroxide (5 grams in 25 ml water)) was added. The product began to precipitate immediately. After 30 minutes, the pH was adjusted to 8-9 with 3N HCl (8 ml). Added water (10 ml) and cooled to less than 10° C. Filtered and washed with 1:1 methanol: water. Dried in vacuum to 26.0 grams (96% yield). Purity according to HPLC is 98% a/a.

reactant | trans-2-Bromo-2′-acetoxy-5′-chlorostilbene | 73 mmol, 26 g | BrC1=C(C=CC=C1)\C=C\C1=C(C=CC(=C1)Cl)OC(C)=O | C16H12BrClO2
reactant | Trifluoroacetic acid | 200 microliters | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-methoxymethyl-N-trimethylsilyl-N-methylamine | 89.7 mmol, 14.5 g | COCN(C)[Si](C)(C)C | C6H17NOSi
solvent | toluene | 91 ml | C1(=CC=CC=C1)C | C7H8
product | trans-N-methyl-2-(2-bromophenyl)-3-(2-hydroxy-5-chlorophenyl)-pyrrolidine | 96% yield | CN1[C@H]([C@@H](CC1)C1=C(C=CC(=C1)Cl)O)C1=C(C=CC=C1)Br | C17H17BrClNO
